US09085583B2
A mixture of 6-chloropyridin-2-amine (10 g, 78 mmol) and tert-butyl piperazine-1-carboxylate (29 g, 156 mmol) was refluxed at 140° C. for 3 days. The reaction mixture was purified by silica gel column chromatography (elute: petroleum ether/ethyl acetate=2:1) to give tert-butyl 4-(6-aminopyridin-2-yl)piperazine-1-carboxylate (6 g, 28%). LCMS (M+H) m/z: calcd 278.17. found 279.

reactant | 6-chloropyridin-2-amine | 78 mmol, 10 g | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | tert-butyl piperazine-1-carboxylate | 156 mmol, 29 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 4-(6-aminopyridin-2-yl)piperazine-1-carboxylate | 6 g, 28% | NC1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
